US04925867
1-Benzyloxy-4-methylpyrrolidin-2,3-dione (7.8 g, 35.6 mmol) and R-(+)-.varies.-methylbenzylamine (8 ml, 7.5 g, 62 mmol) were stirred in methanol (250 ml) at 55° C. for 14 h then refluxed for 4 h. The mixture was then cooled, evaporated and purified by flash chromatography, eluting with hexanes: ethyl acetate (4:1 v/v) to give (R)-1-benzyloxy-4-methyl-2-oxo-3-(1-phenylethylamino)-2,5-dihydropyrrole (8.95 g, 78%) as a slightly yellow oil. 1H NMR (360 MHz, CDCl3) δ7.2-7.5 (10 H, m, Ph's), 5.00 (2 H, s, OCH2), 4.64 (1 H, q, J=6.8 Hz, NCH), 4.1 (1 H, br s, NH), 3.50 (1H, d, J=16.2 Hz, NCHAHB), 3.43 (1 H, d, J=16.2 Hz, NCHAHB), 1.60 (3 H, s, CH3CCH2), 1.45 (3 H, d, J=6.8 Hz, CH3CHPh), m/z (CI, NH3) 323 (M+ +H).

reactant | 1-Benzyloxy-4-methylpyrrolidin-2,3-dione | 35.6 mmol, 7.8 g | C(C1=CC=CC=C1)ON1C(C(C(C1)C)=O)=O | C12H13NO3
reactant | methylbenzylamine | 62 mmol, 8 ml, 7.5 g | CNCC1=CC=CC=C1 | C8H11N
reactant | methanol | 250 ml | CO | CH4O
product | (R)-1-benzyloxy-4-methyl-2-oxo-3-(1-phenylethylamino)-2,5-dihydropyrrole | 8.95 g, 78% | C(C1=CC=CC=C1)ON1C(C(=C(C1)C)N[C@H](C)C1=CC=CC=C1)=O | C20H22N2O2
